US06121285
cis-1-Benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-hydroxymethylpyrrolidine
Under a nitrogen gas stream, lithium aluminum hydride (195.6 mg, 5.135 mmol) was suspended in dry tetrahydrofuran (40 ml). Under stirring at -15° C., a solution of ethyl cis-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidine-3-carboxylate (1.001 g, 2.577 mmol) in dry tetrahydrofuran (10 ml) was added dropwise thereinto over a period of 15 minutes. After stirring the reaction suspension under ice cooling for 3.5 hours, cooling water (5 ml) was slowly added thereto and the mixture was stirred at room temperature for an additional 15 minutes. The reaction suspension was filtered through celite (washed with diethyl ether). The filtrate was concentrated under reduced pressure and dried to obtain 833.9 mg (93.4%) of the title compound as a colorless oily substance.

reactant | lithium aluminum hydride | 5.135 mmol, 195.6 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl cis-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidine-3-carboxylate | 2.577 mmol, 1.001 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)C(=O)OCC | C22H32N2O4
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | cis-1-Benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-hydroxymethylpyrrolidine | 833.9 mg, 93.4% | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)CO | C20H30N2O3
